US07482448B2
PyBOP (171.73 mg, 0.33 mmol), diisopropylethylamine (0.0575 mL, 0.33 mmol) and (S)-2-amino-1-(5-cyclopropyl-1,3,4-oxadiazol-2-yl)-butan-1-ol; compound with trifluoro-acetic acid (0.30 mmol) are added to a solution of (S)-4,4-Difluoro-2-[(morpholine-4-carbonyl)-amino]-heptanoic acid (88.29 mg, 0.30 mmol) in dry methylene chloride (4 mL) and the reaction mixture is stirred overnight at room temperature. The reaction is quenched with aqueous sodium bicarbonate, extracted twice with methylene chloride, the organic extracts are dried over sodium sulfate and evaporated under reduced pressure. Column chromatography on silica eluting with a mixture of methylene chloride and ethyl acetate gives morpholine-4-carboxylic acid ((S)-1-{(S)-1-[(5-cyclopropyl-1,3,4-oxadiazol-2-yl)-hydroxy-methyl]-propylcarbamoyl-}3,3-difluoro-hexyl)-amide as a solid (87 mg). LC/MS 97%, 474 (M+1).

reactant | PyBOP | 0.33 mmol, 171.73 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.33 mmol, 0.0575 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (S)-2-amino-1-(5-cyclopropyl-1,3,4-oxadiazol-2-yl)-butan-1-ol; compound with trifluoro-acetic acid | 0.30 mmol | FC(C(=O)O)(F)F.NC([C@H](O)C=1OC(=NN1)C1CC1)CC
reactant | (S)-4,4-Difluoro-2-[(morpholine-4-carbonyl)-amino]-heptanoic acid | 0.30 mmol, 88.29 mg | FC(C[C@@H](C(=O)O)NC(=O)N1CCOCC1)(CCC)F | C12H20F2N2O4
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | morpholine-4-carboxylic acid ((S)-1-{(S)-1-[(5-cyclopropyl-1,3,4-oxadiazol-2-yl)-hydroxy-methyl]-propylcarbamoyl-}3,3-difluoro-hexyl)-amide | 87 mg | C1(CC1)C1=NN=C(O1)C([C@H](CC)NC(=O)[C@H](CC(CCC)(F)F)NC(=O)N1CCOCC1)O | C21H33F2N5O5
